US04638060
(D) 1-(Benzyloxy)-3-[(t-butoxycarbonyl)amino]-2-oxo-1-azaspiro[3.3]heptane
N-(Benzyloxy)-N2 -(t-butoxycarbonyl)-α-(1-hydroxycyclobutyl)glycinamide (3.50 g, 10 mmole) in 200 ml of dry tetrahydrofuran at 0° C. under argon was treated with 2.4 ml (15 mmole) of diethylazodicarboxylate, then with a solution of triphenylphosphine (5.2 g, 20 mmole) in 50 ml of tetrahydrofuran over 10 minutes, and the mixture stirred at 0° C. for one hour. The yellow color persisted so an additional 0.52 g (2 mmole) of triphenylphosphine was added. After 15 minutes, evaporation in vacuo gave an oil. Trituration with 100 ml of hexane:ethyl acetate (2:1) gave a white solid which was filtered. Chromatography of the filtrate on 800 ml of LPS-1 gave product fractions [Rf=0.8 in hexane:ethyl acetate (1:1)] contaminated with a close-running impurity which was removed by trituration with isopropyl ether, giving the product as a white solid, 1.07 g, melting point 156°-157° C.

reactant | N-(Benzyloxy)-N2 -(t-butoxycarbonyl)-α-(1-hydroxycyclobutyl)glycinamide | 10 mmole, 3.50 g | C(C1=CC=CC=C1)ONC(C(NC(=O)OC(C)(C)C)C1(CCC1)O)=O | C18H26N2O5
reactant | diethylazodicarboxylate | 15 mmole, 2.4 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 20 mmole, 5.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 2 mmole, 0.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexane ethyl acetate | 100 ml | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(Benzyloxy)-3-[(t-butoxycarbonyl)amino]-2-oxo-1-azaspiro[3.3]heptane | C(C1=CC=CC=C1)ON1C(C(C12CCC2)NC(=O)OC(C)(C)C)=O | C18H24N2O4
